US08541411B2
b) methyl 2-chloro-5-(4-morpholinyl)-1H-benzimidazole-7-carboxylate
To a solution of combined batches of methyl 6-(4-morpholinyl)-2-oxo-2,3-dihydro-1H-benzimidazole-4-carboxylate (6.8 g, 24.5 mmol) in POCl3 (25 mL) was added N,N-Dimethylaniline (8.8 g, 73.5 mmol) and the mixture was heated to 103° C. for 12 h. When TLC analysis showed no starting material remaining, the mixture was cooled to room temperature, purified by chromatography (eluted with petroleum ether/EtOAc=1/1) on silica to afford the desired product as a off-white solid (1.6 g, 23%). 1H NMR (300 MHz, DMSO-d6): δ ppm 3.11 (t, 4H, J=4.5 Hz), 3.77 (t, 4H, J=4.5 Hz), 3.93 (s, 3H), 7.43 (d, 1H, J=1.8 Hz), 7.50 (d, 1H, J=1.8 Hz), 12.97 (s, 1H). LC-MS: m/e=296 [M+1]+.

reactant | methyl 6-(4-morpholinyl)-2-oxo-2,3-dihydro-1H-benzimidazole-4-carboxylate | 24.5 mmol, 6.8 g | N1(CCOCC1)C=1C=C(C2=C(NC(N2)=O)C1)C(=O)OC | C13H15N3O4
reactant | N,N-Dimethylaniline | 73.5 mmol, 8.8 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | POCl3 | 25 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | methyl 2-chloro-5-(4-morpholinyl)-1H-benzimidazole-7-carboxylate | 1.6 g, 23% | ClC1=NC2=C(N1)C(=CC(=C2)N2CCOCC2)C(=O)OC | C13H14ClN3O3
